US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol was coupled with 4-fluoro-3-(pyridin-4-yl)benzeneboronic acid as described in Example 1 to give 2-[3-(4-fluoro-3-(pyridin-4-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a white solid (240 mg, 58%). Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (360 MHz, DMSO) 1.56 (6H, s), 7.77 (1H, dd, J 11 and 9), 7.85 (1H, d, J 7), 7.94-7.98 (1H, m), 8.12-8.15 (3H, m), 8.55 (1H, s), 8.95 (2H, d, J 6), 9.38 (1H, d, J 7); m/z (ES+) 349 (M++H).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 4-fluoro-3-(pyridin-4-yl)benzeneboronic acid | FC1=C(C=C(C=C1)B(O)O)C1=CC=NC=C1 | C11H9BFNO2
product | 2-[3-(4-fluoro-3-(pyridin-4-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | 240 mg, 58% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C2=CC=NC=C2 | C20H17FN4O
